US07276516B2
[3-[(6-Fluoro-pyridin-2-ylamino)-methyl]-azetidin-1-yl]-[4-(3-phenyl-indole-1-sulfonyl)-phenyl]-methanone
Add 2,6-difluoropyridine (55 μL, 70 mg, 0.61 mmol, 2.0 equiv) to a solution of (3-aminomethyl-azetidin-1-yl)-[4-(3-phenyl-indole-1-sulfonyl)-phenyl]-methanone (134 mg, 0.301 mmol, 1 equiv) and triethylamine (120 μL, 87 mg, 0.86 mmol, 2.9 equiv) in 1,4-dioxane (3 mL) and heat at 80° C. for 16 h. Mass spec shows no desired product. Add more triethylamine (120 μL) and 2,6-difluoropyridine (110 μL). After 32 h at 80° C., LC/MS shows a small amount of desired product. Add more triethylamine (200 μL) and 2,6-difluoropyridine (110 μL). After 38 h, add more triethylamine (200 μL) and 2,6-difluoropyridine (110 μL). After 100 h, transfer the reaction solution to a column of silica gel (80 mm×20 mm dia.) and elute (50-65% EtOAc/hex) to yield 65 mg (40%) of [3-[(6-fluoro-pyridin-2-ylamino)-methyl]-azetidin-1-yl]-[4-(3-phenyl-indole-1-sulfonyl)-phenyl]-methanone as a white foam. MS (m/e): 541.02 (M+1); 539.17 (M−1).

reactant | 2,6-difluoropyridine | 0.61 mmol, 55 μL, 70 mg, 2.0 equiv | FC1=NC(=CC=C1)F | C5H3F2N
reactant | (3-aminomethyl-azetidin-1-yl)-[4-(3-phenyl-indole-1-sulfonyl)-phenyl]-methanone | 0.301 mmol, 134 mg, 1 equiv | NCC1CN(C1)C(=O)C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1=CC=CC=C1 | C25H23N3O3S
reactant | triethylamine | 0.86 mmol, 120 μL, 87 mg, 2.9 equiv | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | [3-[(6-Fluoro-pyridin-2-ylamino)-methyl]-azetidin-1-yl]-[4-(3-phenyl-indole-1-sulfonyl)-phenyl]-methanone | FC1=CC=CC(=N1)NCC1CN(C1)C(=O)C1=CC=C(C=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C1=CC=CC=C1 | C30H25FN4O3S
